datasets/RMG-dataset.csv
rxn,Ea
[C:0]([O:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:6])([H:7])[H:8].[H:18]>>[C:0]([H:6])([H:7])[H:8].[O:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])[H:18],90.42
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][H:16],-5.8576
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:33])([H:34])[H:35])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:12])[H:13].[H:36]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:34])[H:35])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:12])[H:13].[H:33][H:36],28.267104
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])([C:18]([H:26])([H:27])[H:28])[H:22])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5][H:22])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])[C:18]([H:26])([H:27])[H:28])([H:19])([H:20])[H:21],66.944
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([S:14][H:18])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:18])[H:5].[C:12](=[C:13]([S:14])[H:17])([H:15])[H:16],5.4392
[C:0](=[C:1]1[C:2]([H:11])=[C:3]([H:12])[c:4]2[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]21)[H:10]>>[C:0](=[C:1]1[C:2]=[C:3]([H:12])[c:4]2[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]21)([H:10])[H:11],222.325208
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([H:18])([H:19])[H:20])[C:15]([H:21])([H:22])[H:23])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:13]([C:12]([H:16])[H:17])([C:14]([H:18])([H:19])[H:20])[C:15]([H:21])([H:22])[H:23])[H:5],44.3922
[C:0]([O:1][O:2][H:6])([H:3])([H:4])[H:5].[C:7]([H:8])([H:9])[H:10]>>[C:0]([O:1][O:2])([H:3])([H:4])[H:5].[H:6][C:7]([H:8])([H:9])[H:10],-0.98324
[C:4]([C:5]([C:6]([H:12])([H:13])[H:14])([C:7]([O:8][H:17])([H:15])[H:16])[H:11])([H:9])[H:10].[O:0]([O:1][H:3])[H:2]>>[H:2][C:4]([C:5]([C:6]([H:12])([H:13])[H:14])([C:7]([O:8][H:17])([H:15])[H:16])[H:11])([H:9])[H:10].[O:0][O:1][H:3],6.35968
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18]([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:12])([H:13])[H:14])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:18]([H:19])([H:20])[H:21])[H:8],19.9995
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3]1([H:12])[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]1[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16])[H:12])([H:6])([H:7])[H:8],197.485
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[C:21]([c:22]1[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]1[H:34])([H:28])[H:29]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][C:21]([c:22]1[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]1[H:34])([H:28])[H:29],34.3088
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])[H:15])([O:7][O:8][H:19])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])([O:7][O:8][H:19])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11].[O:5][O:6][H:18],63.1784
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11](=[C:12]([C:13]=[S:14])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:13]([C:12](=[C:11]([H:15])[H:16])[H:17])=[S:14],44.7688
[C:0]([H:1])([H:2])([H:3])[H:4].[N:5]=[O:6]>>[C:0]([H:2])([H:3])[H:4].[H:1][N:5]=[O:6],274.4704
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[S:4])[H:12])[H:8])([H:5])([H:6])[H:7].[H:13]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[S:4])[H:12])([H:5])([H:6])[H:7].[H:8][H:13],-6.6944
[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([O:4][C:5]([C:6]([H:17])([H:18])[H:19])=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2](=[C:3]([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]=[C:5]([C:6]([H:17])([H:18])[H:19])[O:7][H:14],190.506
